US08207213B2
(4-{4-[(Difluoromethyl)oxy]-9-[(1-methylethyl)oxy]-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid
Ethyl(4-{4-[(difluoromethyl)oxy]-9-[(1-methylethyl)oxy]-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate (0.14 g, 0.289 mmol) was heated to 100° C. in a 1:1 mixture of acetic acid:2N aqueous hydrochloric acid (8 ml) for 1 hour. The reaction was cooled to room temperature. On addition of water, the resulting white solid was collected by filtration and washed with water. This was dried in the vacuum oven to give the title compound (0.120 g, 0.026 mmol). LC/MS: Rt=3.36, [MH]+ 456.

reactant | Ethyl(4-{4-[(difluoromethyl)oxy]-9-[(1-methylethyl)oxy]-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate | 0.289 mmol, 0.14 g | C(C)OC(CC1=CC=C(C=C1)N1C(C=2C(=C3C(=C(C2C1=O)OC(C)C)C=CC=C3)OC(F)F)=O)=O | C26H23F2NO6
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2N, 8 ml | Cl | ClH
solvent | water | O | H2O
product | (4-{4-[(Difluoromethyl)oxy]-9-[(1-methylethyl)oxy]-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid | 0.026 mmol, 0.120 g | FC(OC1=C2C(=C(C=3C(N(C(C13)=O)C1=CC=C(C=C1)CC(=O)O)=O)OC(C)C)C=CC=C2)F | C24H19F2NO6
